US06174905B1
To a suspension of 4.4 g of sodium hydride (60% oil dispersion; 110 mmol) in 300 mL of THF were added dropwise 10.91 g of 3-pyridinemethanol (100 mmol) in 20 mL of THF at room temperature, and the mixture was stirred at room temperature for 2 hours. The resulting white suspension was ice-cooled, and 19.51 g of tert-butyl bromoacetate (100 mmol) in 20 mL of THF was added dropwise, maintaining the inner temperature within 10 to 12° C. The suspension was warmed to room temperature with stirring for 3 hours, and then left overnight. After adding water and saturated sodium bicarbonate aq., the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried and evaporated. The residue was purified by column chromatography on silica gel (gradient elution with n-hexane:ethyl acetate=1:1 to ethyl acetate) to give 7.56 g of tert-butyl (pyridin-3-yl)methoxyacetate (33.8%) as a light brown oil.

reactant | sodium hydride | 110 mmol, 4.4 g | [H-].[Na+]
reactant | 3-pyridinemethanol | 100 mmol, 10.91 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | tert-butyl bromoacetate | 100 mmol, 19.51 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl (pyridin-3-yl)methoxyacetate | 7.56 g, 33.8% | N1=CC(=CC=C1)COCC(=O)OC(C)(C)C | C12H17NO3
